US08314087B2
2-(7-Methoxyquinolin-4-yloxy)ethanol.
In a 1 L RBF under nitrogen was placed sodium (15 g, 652 mmol) cubes. The flask was cooled in an ice bath and ethane-1,2-diol (150 ml, 2690 mmol) was added slowly through an addition funnel (15 min). The cooling bath was removed and the reaction mixture was allowed to warm to 50° C. until all the sodium disappeared. After 20 min, the mixture was heated to 110° C. and 4-chloro-7-methoxyquinoline (69 g, 356 mmol) was added. After 12 h, the mixture was cooled to room temperature and was diluted with H2O (250 mL), resulting the formation of a thick sludge. The content was filtered, and washed with H2O (2×50 mL). After air drying overnight, the solid was heated with benzene (300 mL) under reflux for 3 hr. The mixture was cooled and filtered. The solid was washed with ether (2×50 mL) to give a soft solid (77 g) contaminated with the small amount of bisether dimer. MS (ESI pos. ion) calcd for C12H13NO3: 219.2; found: 220.1 (MH+). 1H NMR (400 MHz, Chloroform-d) δ ppm 3.94 (s, 3H) 4.13 (t, 2H) 4.32 (t, 2H) 6.64 (d, J=5.28 Hz, 1H) 7.14 (dd, J=9.19, 2.54 Hz, 1H) 7.37 (d, J=2.35 Hz, 1H) 8.08 (d, J=9.19 Hz, 1H) 8.66 (d, J=5.48 Hz, 1H)

reactant | sodium | 652 mmol, 15 g | [Na] | Na
reactant | ethane-1,2-diol | 2690 mmol, 150 ml | C(CO)O | C2H6O2
reactant | 4-chloro-7-methoxyquinoline | 356 mmol, 69 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
solvent | H2O | 250 mL | O | H2O
product | 2-(7-Methoxyquinolin-4-yloxy)ethanol | 77 g | COC1=CC=C2C(=CC=NC2=C1)OCCO | C12H13NO3
